****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2

.SUBCKT bzx55c9v1 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573
+ TT=1E-006 CJO=8.57E-011 VJ=0.13 M=0.33)
* Leakage
RL 1 2 7E+007 RLMOD
.MODEL RLMOD R(TC1=0.0076 TC2=0 TNOM=25)
* Breakdown
EZ 2 3 5 0 1
R1 3 4 0.125478
VD1 10 4 0.580266
D1 10 1 DMOD1 TEMP=27
.MODEL DMOD1 D(IS=1e-12 N=1.40602 RS=4.13449 TNOM=27)
VD2 20 4 0.554183
D2 20 1 DMOD2 TEMP=27
.MODEL DMOD2 D(IS=1e-12 N=1.00429 RS=0.481439 TNOM=27)
VD3 30 4 0.139582
D3 30 1 DMOD3 TEMP=27
.MODEL DMOD3 D(IS=1e-12 N=0.212653 RS=5.87344 TNOM=27)
I1 0 5 0.001
RVZ 5 0 9100 RVZMOD
.MODEL RVZMOD R(TC1=0.0006 TC2=0 TNOM=25)
.ENDS
